US08247556B2
2-[(2,3-Dihydro-1H-pyrrolo[2,3-b]pyridin-6-ylmethyl)amino]-N-(4,4-dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl)nicotinamide
The titled compound was prepared from 7-[(2-fluoro-pyridine-3-carbonyl)-amino]-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester and C-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-6-yl)-methylamine dihydrochloride by the method described in Example 1. MS (ES+): 429 (M+H). Calc'd. for C25H28N6O—428.54.

reactant | 7-[(2-fluoro-pyridine-3-carbonyl)-amino]-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C(C1)(C)C)NC(=O)C=1C(=NC=CC1)F | C22H26FN3O3
reactant | C-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-6-yl)-methylamine dihydrochloride | Cl.Cl.N1CCC=2C1=NC(=CC2)CN
product | 2-[(2,3-Dihydro-1H-pyrrolo[2,3-b]pyridin-6-ylmethyl)amino]-N-(4,4-dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl)nicotinamide | N1CCC=2C1=NC(=CC2)CNC2=C(C(=O)NC1=CC=C3C(CNCC3=C1)(C)C)C=CC=N2 | C25H28N6O
